US04579947
1-{3-[4-[3-(4-Chlorophenyl)propyl]piperazin-1-yl]propyl}-3-n-hexylurea dihydrochloride
A mixture of 1-(3-chloropropyl)-3-n-hexylurea (2.21 g; 10 mmole), 1-[3-(4-chlorophenyl)propyl]piperazine (2.39 g; 10 mmole), triethylamine (1.01 g; 10 mmole) and alcohol (25 ml) was refluxed for 18 hours. The cooled reaction mixture was diluted with ether and washed with water, dried (sodium sulfate) and concentrated in vacuo. The resulting yellow viscous oil was purified on a silica gel column (methylene chloride/methanol; 93:7) and precipitated with ethereal hydrochloric acid to provide the title compound (1.6 g; 38% yield) as colorless crystals, m.p. 213°-216° C.

reactant | 1-(3-chloropropyl)-3-n-hexylurea | 10 mmole, 2.21 g | ClCCCNC(=O)NCCCCCC | C10H21ClN2O
reactant | 1-[3-(4-chlorophenyl)propyl]piperazine | 10 mmole, 2.39 g | ClC1=CC=C(C=C1)CCCN1CCNCC1 | C13H19ClN2
reactant | triethylamine | 10 mmole, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 1-{3-[4-[3-(4-Chlorophenyl)propyl]piperazin-1-yl]propyl}-3-n-hexylurea dihydrochloride | 1.6 g, 38% yield | Cl.Cl.ClC1=CC=C(C=C1)CCCN1CCN(CC1)CCCNC(=O)NCCCCCC | InChI=1S/C23H39ClN4O.2ClH/c1-2-3-4-5-13-25-23(29)26-14-7-16-28-19-17-27(18-20-28)15-6-8-21-9-11-22(24)12-10-21;;/h9-12H,2-8,13-20H2,1H3,(H2,25,26,29);2*1H
